US04801706
5-[4,4-Bis(4-fluorophenyl)butyl]hexahydro-1,2-bis(phenylmethyl)-1H-1,2,5-triazepine
To lithium aluminum hydride (21 g) in ether (150 ml) was added 1,2-dibenzoyl-5-[4,4-bis(4-fluorophenyl)butyl]hexahydro-1H-1,2,5-triazepine hydrochloride (34.4 g) slowly in small portions. The mixture was stirred and heated under reflux with protection from moisture for 22 hours. The reaction was quenched with 10% sodium hydroxide and water. The resulting hydroxides were collected on a filter and washed well with ether. The filtrate and washings were evaporated to a syrup, wt. 30.4 g. The syrup was dissolved in acetone and the solution was decolorized (Nuchar). The solution was concentrated and a solution of fumaric acid (6.7 g) in acetone (800 ml) was added. The resulting solution was boiled down until crystallization occurred. After cooling, the crude product was collected on a filter and washed with acetone; wt. 32.9 g. Recrystallization from methanol-ether gave 25.3 g (68%) of pure titled product as the fumarate salt (1:1), mp=184°-185°.

reactant | lithium aluminum hydride | 21 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1,2-dibenzoyl-5-[4,4-bis(4-fluorophenyl)butyl]hexahydro-1H-1,2,5-triazepine hydrochloride | 34.4 g | Cl.C(C1=CC=CC=C1)(=O)N1N(CCN(CC1)CCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C(C1=CC=CC=C1)=O
solvent | ether | 150 ml | CCOCC | C4H10O
product | 5-[4,4-Bis(4-fluorophenyl)butyl]hexahydro-1,2-bis(phenylmethyl)-1H-1,2,5-triazepine | 25.3 g, 68% | FC1=CC=C(C=C1)C(CCCN1CCN(N(CC1)CC1=CC=CC=C1)CC1=CC=CC=C1)C1=CC=C(C=C1)F | C34H37F2N3
